US06489344B1
A solution (1 M) of tert-butoxide in tert-butanol (54.9 ml) was added to a stirred solution of 1-(2,4-dichlorophenyl)-2-imidazol-2-ylethan-1-one (0.11 M) and methyl 2-phenylthioprop-2-enoate (0.14 M) dissolved in dichloromethane (300 ml) and methanol (200 ml) at room temperature. The reaction, which developed a dark color, was typically stirred overnight (ca. 16 h) under argon. The reaction was monitored by TLC using 5% methanol in dichloromethane as the solvent system. Additional methyl 2-phenylthioprop-2-enoate was added as needed to consume all of the starting 1-(2,4-dichlorophenyl)-2-imidazol-2-ylethan-1-one. The reaction was quenched by the addition of sat. aq. NH4Cl (˜100 ml). The mixture was transferred to a separatory funnel and diluted with ethyl acetate (300 ml). The aqueous layer was removed and the organic layer was washed with sat. aq. NH4Cl (3×100 ml), brine (100 ml), and dried with Na2SO4. After filtration and evaporation, the residue was purified by flash chromatography over silica gel. The column was eluted starting with 100% dichloromethane to remove the non-polar methyl 2-phenylthioprop-2-enoate. The product was eluted with 3% methanol in dichloromethane. After drying overnight in vacuo, methyl 5-(2,4-dichlorophenyl)-4-imidazol-2-yl-5-oxo-2-phenylthiopentanoate as a deep red glass was obtained in 71% yield. A further 10% yield of product could be obtained by resubmitting side product contaminated fractions to a second purification by flash chromatography.

reactant | tert-butoxide | 1 M | CC(C)([O-])C
reactant | 1-(2,4-dichlorophenyl)-2-imidazol-2-ylethan-1-one | 0.11 M | ClC1=C(C=CC(=C1)Cl)C(CC=1NC=CN1)=O | C11H8Cl2N2O
reactant | methyl 2-phenylthioprop-2-enoate | 0.14 M | C1(=CC=CC=C1)C(C(=S)OC)=C | C10H10OS
reactant | methanol | 200 ml | CO | CH4O
solvent | tert-butanol | 54.9 ml | C(C)(C)(C)O | C4H10O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | methyl 5-(2,4-dichlorophenyl)-4-imidazol-2-yl-5-oxo-2-phenylthiopentanoate | 71% yield | ClC1=C(C=CC(=C1)Cl)C(C(CC(C(=S)OC)C1=CC=CC=C1)C=1NC=CN1)=O | C21H18Cl2N2O2S
